* Extracted active converter macro decision-boundary transient.
.lib "/home/mehtama1/eda-tools/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.include "/home/mehtama1/git-repo/ai-hardware-analysis/analog-digital-chip-design-eda/evidence/aimc-simulator-adapters/active-converter-macro-candidate/20260909T062431Z/aimc_converter_macro_active_candidate_extracted.spice"
.param vdd=1.8
VSS vss 0 0
VDD vdd 0 {vdd}
VROW row_drive 0 0.899923514707
VCOMP sar_comparator_input 0 0.900076485293
VRESET reset 0 PULSE(0 {vdd} 7.80n 20p 20p 30n 60n)
VEVAL eval 0 PULSE(0 {vdd} 8.00n 20p 20p 20n 30n)
VSSX vss_escape 0 0
VDDU vdd_uq0 0 {vdd}
RP vdd_ext latch_sense_p_ext 100k
RN vdd_ext latch_sense_n_ext 100k
IBIAS iso_tail_ext 0 4u
RTAIL tail_ext 0 100G
XU vss vdd row_drive sar_comparator_input decision_p decision_n reset eval vss_escape latch_sense_p_ext latch_sense_n_ext iso_tail_ext tail_ext vdd_ext aimc_converter_macro_active_candidate
.options method=gear reltol=2e-3 abstol=1e-14 vntol=1e-7 gmin=1e-12
.tran 10p 18n
.measure tran decision_p_v FIND v(decision_p) AT=17n
.measure tran decision_n_v FIND v(decision_n) AT=17n
.measure tran decision_diff_v PARAM='decision_n_v-decision_p_v'
.measure tran supply_charge_c INTEG I(VDD) FROM=0 TO=18n
.control
run
.endc
.end
